Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
Altered Mental Status 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with PMHx of quadriplegia from C6-C7 injury s/p fall 1 month 
ago presenting with AMS from ___.  She was recently 
hospitalized at ___ after her spinal injury. Course c/b VAP 
s/p tx w/ ___, ultimately was not able to be weaned from 
ventilator, so she had trach placed. Pt noted to be febrile to 
101-102 on ___, infectious w/u was negative. CXR was thought 
to be remarkable for small area of atelectasis on L side but 
otherwise no focal consolidations c/f PNA. Pt also noted to have 
a unstageable sacral ulcer, no frank e/o infection. Was started 
on broad spectrum abx w/ ___ since ___. Was also 
started on empiric PO vanc even though C-diff returned negative 
(had some intermittent loose stools). Patient remained at 
baseline mental status and had no other symptoms. Noted by 1:1 
sitter to be suddenly tachypneic today at 1pm, slumping to the 
left and less responsive than baseline. Had no fever. No LOC. 
This episode lasted for about 10 minutes. Pt brought to ED for 
evaluation w/ initial c/f stroke.

In ED initial VS: T 99, P 75, BP 113/51, R 18, 99% RA
Exam: Trach in place, PEG in place, foley in place
FOllows commands with tongue sticking out and eyes closing
NO movement in extremities
Soft abd

Labs notable for WBC 9.0, Hgb 8.8, UA w/ significant leukocytes, 
blood, bacteria. Lactate 0.9.

Patient was given: IVF NS 2L, IV zosyn 4.5g x1, IV vanc 1000mg 
x1 
Imaging notable for: CXR Left basilar opacification likely 
reflects atelectasis or infection, with adjacent small to 
moderate left pleural effusion. 
NCCTH w/ no acute intracranial process. 
Consults: Respiratory therapy, set ventilator settings at AC/VC 
450 TV, RR 10, PEEP 5, 50% FiO2   

On arrival to the MICU, pt demonstrates understanding and 
confirms the history above. Expressed clearly that she would 
like to be disconnected from the ventilator. 

 
Past Medical History:
Hypertension
 
Social History:
___
Family History:
no significant family hx  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
==================================
VITALS: T 97.9, P 69, BP 176/84, R 27, 100% (on vent) 
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, trach in place 
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation anteriorly, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly. PEG tube in 
place, site c/d/i  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: unstageable sacral ulcer  
GU: foley in place
NEURO: able to make purposeful movements w/ UE's. no ability to 
move LEs. 
ACCESS: PIVs

 
Pertinent Results:
ADMISSION LABS:
==================================
___ 02:00PM BLOOD WBC-9.0 RBC-2.97* Hgb-8.8* Hct-28.1* 
MCV-95 MCH-29.6 MCHC-31.3* RDW-14.1 RDWSD-48.0* Plt ___
___ 02:00PM BLOOD Neuts-74.7* Lymphs-12.1* Monos-7.5 
Eos-4.0 Baso-0.3 Im ___ AbsNeut-6.72* AbsLymp-1.09* 
AbsMono-0.68 AbsEos-0.36 AbsBaso-0.03
___ 02:00PM BLOOD Glucose-141* UreaN-24* Creat-0.4 Na-132* 
K-4.7 Cl-99 HCO3-25 AnGap-13
___ 02:00PM BLOOD ALT-57* AST-34 AlkPhos-82 TotBili-0.3
___ 02:00PM BLOOD Albumin-2.8* Calcium-8.5 Phos-4.3 Mg-2.3
___ 02:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 05:13PM BLOOD Type-ART Tidal V-400 PEEP-5 FiO2-50 
pO2-180* pCO2-47* pH-7.34* calTCO2-26 Base XS-0 
As/Ctrl-ASSIST/CON Intubat-INTUBATED
___ 02:07PM BLOOD Lactate-0.9

IMAGING:
========

PORTABLE CXR ___
Left basilar opacification likely reflects atelectasis or 
infection, with 
adjacent small to moderate left pleural effusion. 

CT HEAD W/O CONTRAST ___
1. No acute intracranial process. 
2. Partial opacification of bilateral mastoid air cells 
suggestive of mild 
ongoing inflammation. 

PORTABLE CXR ___
Left lower lobe collapse and/or consolidation.  Presence of left 
pleural 
effusion is suspected, though difficult to confirm on this 
image. 
Tiny right pleural effusion could be new. 
Mild vascular plethora appears slightly more pronounced. 

PORTABLE CXR ___ 
  
Comparison to ___. Stable small left pleural effusion 
with subsequent left basilar consolidation. Moderate 
cardiomegaly persists.  Mild fluid overload but no overt 
pulmonary edema. Stable position of the tracheostomy tube. 

Chest X-ray ___
EXAMINATION:  CHEST (PORTABLE AP)
 
I
N
D
I
C
A
T
I
O
N
:
  ___ year old woman with shortness of breath// please assess for
interval change      please assess for interval change
 
IMPRESSION: 
 
Compared to chest radiographs ___ through ___.
 
M
o
d
e
r
a
te left pleural effusion has increased.  Left lower lobe remains
p
a
r
t
i
a
l
l
y atelectatic.  Pulmonary vasculature is minimally engorged but 
there 
i
s
 
n
o
 
e
d
e
m
a.  Cardiac silhouette is at least moderately enlarged, possibly
increased slightly since ___.
 
Tracheostomy tube midline.
 

 
Brief Hospital Course:
___ with PMHx of quadriplegia from C6-C7 injury currently on 
trach p/w recent fevers and an episode of respiratory distress 
and unresponsiveness thought to be secondary to mucus plugging, 
s/p bronchoscopy, and after multiple goals of discussions in ICU 
made to transition to comfort measures only, patient transferred 
to the floor on ___ and passed away on ___ with family at 
bedside. Patient preferred to stay in hospital after becoming 
CMO. 

MICU COURSE ___
================
# Communication/GOC/Prior Suicidal Ideations: patient remained 
at baseline mental status, and demonstrated that she was alert 
and oriented. She voiced wishes clearly that she wanted to be 
transitioned to CMO. She expressed that she didn't want to delay 
her death and live an existence of dependence. This was 
contradiction from her daughter’s wishes for her. Earlier in the 
hospitalization, the HCP was invoked because the patient had 
been deemed to not have capacity prior to this admission. 
However, HCP then stated that she would like to respect her 
mother’s wishes. Psychiatry following and need to determine 
whether the patient has a longitudinal thought process that 
identifies her as having capacity vs. continuously changing GOC. 
Patient was fitted for speaking valve on ___ and was able to 
communicate better. 

# Chronic Hypoxemic Respiratory failure: as a result of a C6/C7 
spinal injury one month ago. Unable to be weaned off vent during 
last admission, but noted to be able to spend much of the day 
off the vent. Has been left on the vent ___ while at rehab. 
Trach downsized on ___, fitted for speaking valve. Cough assist 
and suctioning seemed to be the most beneficial to get patient 
off vent.  Some intermittent desats on ___, +5L positive for 
stay.

# Sacral Ulcer: Unstageable. Not infected. Wound care evaluated 
the patient on ___ with the following recommendations: 
Commercial wound cleanser or normal saline to cleanse wounds; 
pat the tissue dry with dry gauze; apply small dab of wound gel 
to necrotic tissue; cover with Sacral Border Mepilex, change Q3 
days. 

# Fever: Patient with LGF on ___ AM. S/P course of broad 
spectrum abx for VAP. Pancultured. PEG/Lines c/d/i. CXR 
improving. Likely ___ atelectasis, mucus plugging.  No fevers 
since ___.

# ? VAP: Patient was noted to be febrile on ___ and 
subsequently placed on ___ since that time. Infectious w/u 
at rehab was negative. CXR here w/ area of atelectasis vs 
infection on left side. UA w/ WBC, bacteria, blood i/s/o chronic 
foley. She completed ___ on day of admission. Blood and 
urine cx’s negative. Sputum culture from BAL showing >25 PMNs 
with presence of yeast as above. 

#Asthma: Albuterol prn
#Orthostatic hypotension: discontinued midodrine on discharge 
from ICU
#Constipation : discontinued senna/Colace on discharge from ICU

Communication: 
HCP: ___: Relationship daughter: ___, cell
phone: ___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID 
2. Enoxaparin Sodium 40 mg SC DAILY 
Start: ___, First Dose: Next Routine Administration Time 
3. Escitalopram Oxalate 10 mg PO DAILY 
4. Famotidine 20 mg PO BID 
5. Theophylline SR 100 mg PO BID 
6. Miconazole 2% Cream 1 Appl TP BID 
7. Midodrine 5 mg PO TID 
8. QUEtiapine Fumarate 12.5 mg PO QHS 
9. Senna 8.6 mg PO BID:PRN constpiation 
10. Bisacodyl 10 mg PR QHS:PRN constipation 
11. Acetaminophen (Liquid) 650 mg PO Q6H:PRN Pain - Mild 
12. Albuterol Inhaler 2 PUFF IH Q4H:PRN SOB 

 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Expired 
 
Discharge Condition:
Expired
 
Discharge Instructions:
Expired
 
Followup Instructions:
___